US07807700B2
Ethyl 4-oxo-2-(2-(trifluoromethyl)phenylamino)-4,5-dihydrothiazole-5-carboxylate
To a stirred solution of 2-(trifluoromethyl)phenylthiourea (Menai Organics, 2.36 g, 10.7 mmol), Hunig's base (Aldrich, 1.9 mL, 10.7 mmol) in EtOH (10 mL) was added diethyl bromomalonate (2.0 mL, 10.7 mmol). After 1.5 h at room temperature, the reaction mixture was diluted with EtOAc, washed with saturated NaHCO3 and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel chromatography. MS: 333 (M+1).

reactant | 2-(trifluoromethyl)phenylthiourea | 10.7 mmol, 2.36 g | FC(C1=C(C=CC=C1)NC(=S)N)(F)F | C8H7F3N2S
reactant | Hunig's base | 10.7 mmol, 1.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | diethyl bromomalonate | 10.7 mmol, 2.0 mL | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 4-oxo-2-(2-(trifluoromethyl)phenylamino)-4,5-dihydrothiazole-5-carboxylate | O=C1N=C(SC1C(=O)OCC)NC1=C(C=CC=C1)C(F)(F)F | C13H11F3N2O3S
